US03959309
3-(Dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionic acid
To a solution of 17.1 g. of 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole in 150 ml. of benzene was added 10.6 g. of acrylonitrile followed by 1 ml. of 35% benzyltrimethylammonium hydroxide in methyl alcohol. The solution was heated under reflux for one hour and fifteen minutes, cooled to room temperature, filtered, and evaporated to dryness. The residue was treated with hot hexane and then hot heptane (total volume 3.3 liters), both solutions being decanted from insoluble gum. The combined hexane-heptane solution was cooled and filtered to give a solid which, on recrystallization from hexane, yielded 8.6 g. of 3-(dimethylamino)-9-(2-cyanoethyl)-1,2,3,4-tetrahydrocarbazole, m.p. 106°-108°C. A solution of 13 g. of 3-(dimethylamino)-9-(2-cyanoethyl)-1,2,3,4-tetrahydrocarbazole in 125 ml. of ethyl alcohol and 150 ml. of 10% potassium hydroxide solution was heated under reflux for three hours, cooled, and the ethyl alcohol was removed under reduced pressure. The resulting aqueous solution was extracted with benzene, and the aqueous layer was separated and treated with acid to pH 7, cooled, and filtered to give 5.6 g. of solid material. The filtrate waas acidified to pH 6 and the resulting crystals were collected by filtration. The filtrate was evaporated to dryness under reduced pressure and the solid residue was slurried in water and collected by filtration. The above three crops of solids were combined, dissolved in ethyl alcohol and treated with hydrogen chloride in ethyl alochol to give, on filtration and recrystallization from ethyl alcohol, 11.4 g. of 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionic acid hydrochloride, m.p. 304°-305°C.

reactant | 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC=CC=C3C2C1)C | C14H18N2
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 3-(dimethylamino)-9-(2-cyanoethyl)-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2N(C3=CC=CC=C3C2C1)CCC#N)C | C17H21N3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-(dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionic acid hydrochloride | Cl.CN(C1CCC=2N(C3=CC=CC=C3C2C1)CCC(=O)O)C
solvent | methyl alcohol | CO | CH4O
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(Dimethylamino)-1,2,3,4-tetrahydrocarbazole-9-propionic acid | CN(C1CCC=2N(C3=CC=CC=C3C2C1)CCC(=O)O)C | C17H22N2O2
